US08809376B2
Step 1: 4-bromo-5-hydroxy-indan-1-one
Sodium methanethiolate (2.00 g) is added to a microwave vial charged with a stir bar, 4-bromo-5-methoxy-indan-1-one (1.58 g), and N,N-dimethylformamide (10 mL). The vial is sealed and the mixture is heated to 130° C. and stirred at this temperature for 2 h. After cooling to room temperature, the mixture is partitioned between ethyl acetate and 1 N aqueous HCl solution. The aqueous phase is separated and extracted with ethyl acetate. The combined organic phases are washed with brine and dried (MgSO4). The solvents are evaporated and the residue is triturated with diethylether. The precipitate is filtered off and dried in vacuo to give the title compound. LC (method 1): tR=0.84 min; Mass spectrum (ESI+): m/z=227/229 (Br) [M+H]+.

reactant | Sodium methanethiolate | 2.00 g | C[S-].[Na+]
reactant | 4-bromo-5-methoxy-indan-1-one | 1.58 g | BrC1=C2CCC(C2=CC=C1OC)=O | C10H9BrO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-bromo-5-hydroxy-indan-1-one | BrC1=C2CCC(C2=CC=C1O)=O | C9H7BrO2
